US05496835
a) Ethyl 2-methoxyimino-4-oxooctanoate
To an ethanol (100 ml) solution of ethyl 2,4-dioxooctanoate (20 g) (K. Seki et al., Chem. Pharm. Bull., 32, 1568(1984)) was added, under ice-cooling, methoxyamine hydrochloride (8.4 g), and the mixture was stirred for one hour, then it was stirred for further 15 hours at room temperature. The reaction mixture was concentrated under reduced pressure, to which was added a saturated aqueous solution of sodium hydrogencarbonate, followed by extraction with ether. The extract solution was dried over anhydrous sodium sulfate, then the solvent was distilled off under reduced pressure. The residue was purified by column chromatography on silica gel to afford the title compound as a colorless oil (16.6 g, 72%).

reactant | ethyl 2,4-dioxooctanoate | 20 g | O=C(C(=O)OCC)CC(CCCC)=O | C10H16O4
reactant | methoxyamine hydrochloride | 8.4 g | Cl.CON
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl 2-methoxyimino-4-oxooctanoate | 16.6 g, 72% | CON=C(C(=O)OCC)CC(CCCC)=O | C11H19NO4
